Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vancomycin
 
Attending: ___
 
Chief Complaint:
dyspnea, weakness

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo male with hx of recent PNA, sCHF (EF 
___, and CAD s/p CABG and ICD placement who was admitted 
from the ED where he presented with persisent dyspnea and cough 
despite recent treatment for PNA.  He had a recent admission 
from ___ for PNA.  He was treated with a 5 day course of 
levofloxacin.  His hospital course was complicated by acute 
renal failure and bacterial conjunctivitis.  Since discharge he 
states he has not felt well.  He has continued to have a 
productive cough (denies blood in his sputum).  He has also felt 
feverish.  He admits to general weakness.  He also reports 
decreased po intake over the past couple days due to decreased 
appetite.

Of note he had two car accidents in the last day and was 
evaluated afterwards in the ED.

In the ED, intial VS: T 98.1  BP 143/92  HR 68  RR 22  Sat 98% 
on RA.  He was found to have a worsening RLL PNA on CXR and 
given cefepime and vancomycin.  Per report from the ED, halfway 
through the vancomycin infusion he developed acute dypsnea and 
tachypnea, redness on his arm where the vanc was infusing, and 
tachycardia.  He was placed on a NRB and treated with nebs.  The 
infusion was stopped and an EKG was performed which showed ST 
elevation V2-V4, TWI V5, V6 (different from his initial EKG).  
Cardiology was consulted who looked at his older EKGs and think 
the ST changes seen were consistent with his older EKGs (he has 
an aneurysm).  Labs and CXR were rechecked without much 
difference from his inital workup.  It was concluded that the 
reaction likely wasn't from vanc and the rest of the vancomycin 
was infused.  He was admitted to the ICU instead of the floor 
because of some concern that he was having an allergic reaction 
to the vanc. Right before he left the ED he spiked and was given 
tylenol. 

On ROS he denies HA, myalgias, arthralgias, nausea, vomiting, 
abdominal pain, constipation, diarrhea, blood in his stool, or 
other symptoms.

On arrival to the MICU he was quickly weaned off the NRB to 4 l 
NC.  He denied any chest pain or acute reaction to the 
vancomycin in the ED.  
 
Past Medical History:
-Large anterior wall MI in ___, LV aneurysm, and likely LV 
thrombus.  
-CABG, in ___ anatomy as follows: LIMA to Diag, SVG to OMB, SVG 
to RCA  
-Chronic systolic congestive heart failure (EF ___  
-Sustained monomorphic VT treated with sotalol and ICD 
implantation.  
- Prior stroke in ___, with an initial change in 
speech and difficulties with memory that resolved after one to 
two days. In ___, he developed a left sided sensory 
loss that has persisted after a stroke.   
-Dyslipidemia  
-HTN  
-Stage II-III chronic kidney disease (Cr baseline ~ 1.3)  
-Splenectomy after a splenic infarct  
-Secondary polycythemia ___  
-Diabetes mellitus, type II  
 
Social History:
___
Family History:
His brother died of MI at age ___. Mother and father had no heart 
disease. 

 
Physical Exam:
GEN: Elderly male laying in bed in NAD 
HEENT: PERRL, EOMI, anicteric, MM dry, op without lesions, 
dentures in place.
RESP: Breathing comfortably.  Expiratory wheezing left>right.  
RLL with possible egophany and increased crackles compared to 
LLL with slight crackles.  
CV: RRR, no MRG.
ABD: +BS, soft NTND 
EXT: no c/c/e  
SKIN: no rashes/no jaundice/no splinters  
NEURO: Alert and appropriate.

Discharge:
98.2 130/80 79 20 96% RA
GEN: Elderly male sittin in bed in NAD  
HEENT: PERRL, EOMI, anicteric, mmm, op without lesions, dentures 
in place.  
RESP: rhonchi diffusely, + end expiratory wheezes, Decreased 
breath sounds at R base.
CV: RRR, no MRG.  
ABD: +BS, soft NTND  
EXT: no c/c/e  
NEURO: Alert and appropriate.  

 
Pertinent Results:
Admission labs:
Na 131 K 4.8  Cl 100  Bicarb 23  BUN 20  Cr 1.3  Glu 129
.
WBC 8.0  Hct 46.7  Plt 513  
N 73%  L 11%  M 15%  Atypical 1%
.
___ 56.1  PTT 40.1  INR 6.3
.
Lactate 1.7 00> 1.5
.
Trop  0.03 --> 0.04

.
Micro:
UA ___ WBC, neg luek, neg nitr
UCx - pending
BCx x 2 - pending
.  
EKG:  
normal sinus rhythm, STE in V2-V5 (unchanged compared to old 
EKG)
.  
Imaging:  
CXR: RLL infiltrate

CXR PA/LAT DECUB ___: 
Three views including a right lateral decubitus view. Comparison 
with the 
previous study done ___. There is continued evidence of 
pulmonary 
vascular congestion and interstitial infiltrates, consistent 
with mild edema.  Heart is enlarged and the patient is status 
post median sternotomy as before.  There is a small right 
pleural effusion. There is slight redistribution of pleural 
fluid on the lateral decubitus view. An ICD remains in place. 
  
IMPRESSION: Small amount of free flow of right pleural fluid. 

CXR PA/LAT DECUB ___:
The size of the right pleural effusion has increased somewhat 
since 
the prior decubitus film of ___. A small-to-moderate 
sized right 
pleural effusion is now present. 
  
No other changes are noted. 
  
IMPRESSION: Increased size of right effusion. 

 
Brief Hospital Course:
___ yo male with hx of recent PNA, sCHF (EF ___, and CAD s/p 
CABG and ICD placement here with persisent PNA and possible 
allergic reaction to vancomycin.  
.
#  Dyspnea/PNA:  The patient was treated with a 5 day course of 
levofloxacin recently without much clinical improvement.  His 
CXR shows a RLL infiltrate.  There was no CXR from his previous 
admission to compare it to (the PNA was diagnosed on an abd CT). 
 During his previous admission he was legionella antigen 
negative.  White count not elevated (although it was elevated on 
admission during his last hospitalization).  PNA may be 
persisent partially treated PNA versus resistant PNA.  In ED, pt 
was on vancomycin, however was dc'ed for quesitonable allergic 
reaction and low likelihood for MRSA PNA.  Then was on cefepime 
and levofloxacin, however was switched to azithromycin and 
ceftriaxone considering this PNA is likely continued CAP from 
previous admission.  He was also found to have non-loculated 
pleural effusion in RLL, which was evaluated by IP, however was 
not drained considering appeared clinically much better on 
ceftriaxone/azithromycin, so was lses likely to be an empyema or 
infectious process.  Bcx with no growth, was weaned off O2 prior 
to discharge, satting high ___ on RA, afebrile for >48 hrs prior 
to discharge.  Transitioned to cefpodoxime with which he was 
discharged for a total 10 day course.
.
#Pleural effusion:  Had non-loculated pleural effusion as above, 
initially was evaluated by IP for potential drainage considering 
patient continued to be febrile with no symptomatic improvement 
after discharge before, however INR was supratherapeutic.  As 
INR drifted down, clinically improved and was afebrile so 
thoracentesis was deferred.  Pleural effusion thought more 
likely to be due to chronic sCHF and so patient was started on 
lasix 20 mg PO every other day.  Would check Cr as outpatient to 
evaluate renal function while on furosemide and evaluate volume 
status for continued need for diuresis.
.
#  ? Reaction to vancomycin:  The patient was described as 
developing acute dyspnea, redness around the infusion site, and 
also developed a fever after the vanc infusion.  Not a typical 
vanc infusion reaction or allergic reaction, but concerning so 
vancomycin was held and was added to allergy list.
.
#  Hyponatremia:  Na of 131 on admission with history of poor po 
intake.  Likely hypovolemic hyponatremia, which he had had in 
the past.  Has EF of ___.  Received IVF in ED, however held 
off while on floor due to concern for his chronic sCHF, PO 
intake was encouraged.
.
#  Supratherapeutic INR: The patient's INR was 6.3 on admission, 
then elevated to 8.2. He has a history of LV aneurysm and 
thrombus and has a goal INR of ___.  Likely elevated in the 
setting of levofloxacin.  Coumadin was held, and levofloxacin 
was stopped. Initially INR increased to 10, however no bleeding, 
but was given 5 mg of vitamin K prophylactically. INR drifted 
down, did not receive further vitamin K or FFP, did not have any 
active bleeding. Discharged on home coumadin dose of 2.5 mg 
daily
.
#  sCHF: Recent TTE with EF of ___.  Appeared euvolemic on 
exam. Home carvedilol and enalapril continued.
.
# Hx of CAD:  EKG without changes from baseline, cardiology 
consulted and confirmed that ST changes were there at baseline 
likely ___ known LV aneurysm. Trop slightly up initially peaking 
at 0.06, but trended down at discharge.  He denies current or 
recent chest pain.  Continued ASA, carvedilol, enalapril, 
atorvastatin, and isosorbide mononitrate.
.
# Hx of VT s/p ICD placement: Device was interrogated, found to 
be working appropriately.  Continued home sotalol.
.
# CKD: Baseline Cr of 1.0-1.3, Cr at admission at baseline.  
Renally dosed medications, trended Cr, remained stable.
.
# Diabetes: Patient not currently on diabetic medications, but 
has h/o DM.  In hospital, had QID fingersticks, SSI.  Not 
continued on discharge.
.
Code:  Full code, confirmed with the patient
 
Medications on Admission:
1. atorvastatin 80 mg Tablet PO DAILY 
2. carvedilol 12.5 mg Tablet PO BID 
3. enalapril maleate 5 mg Tablet Sig: 0.5 Tablet PO DAILY 
4. isosorbide mononitrate 30 mg Tablet SR 24 hr PO DAILY 
5. warfarin 2.5 mg Tablet PO Once Daily 
6. aspirin 81 mg PO DAILY  
7. sotalol 80 mg PO BID 

 
Discharge Medications:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. enalapril maleate 5 mg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
6. sotalol 80 mg Tablet Sig: 1.5 Tablets PO BID (2 times a day). 
 
7. erythromycin 5 mg/gram (0.5 %) Ointment Sig: One (1)  
Ophthalmic TID (3 times a day).  
8. cefpodoxime 200 mg Tablet Sig: One (1) Tablet PO twice a day 
for 10 days.
Disp:*19 Tablet(s)* Refills:*0*
9. Coumadin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Lasix 20 mg Tablet Sig: One (1) Tablet PO every other day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen in the hospital for pneumonia, for which you were 
treated with IV antibiotics.  Please continue taking antibiotics 
(cefpodoxime and azithromycin) until ___.  For your heart 
failure, you should weigh yourself every morning, call MD if 
weight goes up more than 3 lbs.

Changes to your medications:
START taking cefpodoxime 200 mg twice a day until ___
 
Followup Instructions:
___